US06218404B1
4-(2-Hydroxybenzoyl)-1-(3-hydroxypropyl)piperidine
4-(2-Hydroxybenzoyl)piperidine hydrobromide. An solution of 4-(2- and 4-hydroxybenzoyl)-1-acetyl piperidine (2.30 g, 9.30 mmol) in 6 N HCl (20 mL) was refluxed for 2 h. The cooled solution was extracted with ether (2×30 mL), made basic (NaOH) and was extracted with EtOAc (2×30 mL). An insoluble solid formed which was removed. The EtOAc portion was dried and was concentrated under reduced pressure. The free amine was dissolved in HBr (saturated solution in methanol, 5 mL) and the precipitated hydrobromide salt was collected, washed with ether (2×4 mL) and was dried in vacuo to afford the title compound as a colorless solid (0.26 g): mp 253° C. (dec); 1H NMR (DMSO-d6) d 1.60-1.83 (m, 2H), 1.94 (bd, J=12.9 Hz, 2H), 2.90-3.10 (m, 2H), 3.30 (bd, J=12.3 Hz, 2H), 3.65-3.90 (m, 1H), 6.94 (t, J=8.7 Hz, 2H), 7.50 (t, J =7.5 Hz, 1H), 7.88 (d, J=7.5 Hz, 1H), 8.33 (bs, 1H), 8.58 (bs, 1H), 11.63 (s, 1H).

reactant | 4-(2-Hydroxybenzoyl)piperidine hydrobromide | Br.OC1=C(C(=O)C2CCNCC2)C=CC=C1
solvent | HCl | 6 N, 20 mL | Cl | ClH
product | 4-(2-Hydroxybenzoyl)-1-(3-hydroxypropyl)piperidine | 0.26 g | OC1=C(C(=O)C2CCN(CC2)CCCO)C=CC=C1 | C15H21NO3
